US08124766B2
4-Fluoronitrobenzene (2.82 g, 20 mmol) was mixed with (S)-3-hydroxy-N-Boc-pyrrolidine (3.74 g, 20 mmol) in dry THF (100 mL). At 0° C., sodium hydride (1.69 g, 60% dispensed in mineral oil, 2.20 eq) was added. The mixture was stirred at 0° C. for 60 min and at room temperature overnight. Solvents were evaporated and the residue was extracted with ethyl acetate and 0.2N hydrochloric acid. The organic layer was washed with brine and dried over sodium sulfate. After the evaporation of solvents, the residue was purified through flash column chromatography using ethyl acetate and hexanes (5% to 60% ethyl acetate) to give a crystalline material as (S)-3-(4-nitro-phenyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (4.33 g, 70.3% yield).

reactant | 4-Fluoronitrobenzene | 20 mmol, 2.82 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | (S)-3-hydroxy-N-Boc-pyrrolidine | 20 mmol, 3.74 g | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | sodium hydride | 1.69 g, 2.20 eq | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (S)-3-(4-nitro-phenyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.33 g, 70.3% yield | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C15H20N2O5
